US07717964B2
Step 1: Synthesis of N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide)
60 g of cystamine hydrochloride was solubilized in 500 mL and cooled to 5° C. The pH was raised to 10 by addition of aq. NaOH (30%). A solution of 4-chlorobutanoyl chloride (105 g) in anhydrous THF (500 mL), was added dropwise, while the pH was maintained above 7 by addition of aq. NaOH (30%). After completion of the addition and stabilization of pH at 7, the mixture mixed for 3 days. The aqueous layer was extracted with 3×500 mL dichloromethane, combined with THF layer and dried over Na2SO4. After drying under vacuum, 41 g of a white powder were collected. Analyses were in accordance with the expected structure.

reactant | cystamine hydrochloride | 60 g | Cl.NCCSSCCN
reactant | NaOH | [OH-].[Na+]
reactant | 4-chlorobutanoyl chloride | 105 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide) | S(SCCNC(CCCCl)=O)CCNC(CCCCl)=O | C12H22Cl2N2O2S2
